US08003796B2
Preparation of (±)-1-(4-(methylsulfinyl)phenyl)-4-(1-(5-propylpyrimidin-2-yl)piperidin-4-yloxy)pyridin-2(1H)-one
To a stirring solution of 1-(4-(methylthio)phenyl)-4-(1-(5-propylpyrimidin-2-yl)piperidin-4-yloxy)pyridin-2(1H)-one (51.4 mg, 0.118 mmol) in CH2Cl2 (15 mL) at 0° C. was added a solution of 3-Chloroperoxybenzoic acid (26.4 mg, 0.118 mmol) in 5 mL CH2Cl2. The reaction was stirred at 0° C. for 15 min and then quenched with Na2SO3 (sat. solution in H2O). The organic layer was washed with H2O, brine, dried over Na2SO4 and concentrated in vacuo to a white solid. The solid was purified by flash chromatography (SiO2, 0 to 10% MeOH in CH2Cl2) to yield 50 mg of desired product as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 8.16 (s, 2H), 7.77 (d, J=8.31 Hz, 2H), 7.57 (d, J=8.31 Hz, 2H), 7.23 (d, J=7.34 Hz, 1H), 5.94-6.11 (m, 2 H), 4.44-4.64 (m, 1H), 4.07-4.31 (m, 2H), 3.50-3.74 (m, 2H), 2.77 (s, 3H), 2.40 (t, J=7.58 Hz, 2H), 1.98-2.17 (m, 2H), 1.73-1.93 (m, 2H), 1.50-1.64 (m, 2H), 0.93 (t, =7.34 Hz, 3H). MS (ESI) 453 (M+H).

reactant | 1-(4-(methylthio)phenyl)-4-(1-(5-propylpyrimidin-2-yl)piperidin-4-yloxy)pyridin-2(1H)-one | 0.118 mmol, 51.4 mg | CSC1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C1=NC=C(C=N1)CCC)=O | C24H28N4O2S
reactant | 3-Chloroperoxybenzoic acid | 0.118 mmol, 26.4 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (±)-1-(4-(methylsulfinyl)phenyl)-4-(1-(5-propylpyrimidin-2-yl)piperidin-4-yloxy)pyridin-2(1H)-one | 50 mg | CS(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C1=NC=C(C=N1)CCC)=O | C24H28N4O3S
